US07598383B2
Step B: Preparation of 4-chloro-1,5-dimethyl-6-oxo-2-trimethylsilanylethynyl-1,6-dihydropyridine-3-carboxylic acid ethyl ester:
To a mixture of 2-bromo-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (1.00 equivalent), trimethylsilylacetylene (1.20 equivalents) and iPr2NH (2.00 equivalents) in THF is added CuI (0.10 equivalents) followed by Pd(PPh3)2Cl2 (0.10 equivalents). After stirring the reaction mixture at reflux for 16 hours, it is cooled to room temperature and diluted with ethyl acetate. The organic layer is washed with saturated NH4Cl solution and brine, dried (MgSO4) and concentrated under reduced pressure. The desired product is obtained by flash column chromatography as necessary.

reactant | 2-bromo-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 1.00 equivalent | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)Br | C10H11BrClNO3
reactant | trimethylsilylacetylene | 1.20 equivalents | C[Si](C)(C)C#C | C5H10Si
reactant | iPr2NH | 2.00 equivalents | N(C(C)C)C(C)C | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.10 equivalents | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.10 equivalents | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-1,5-dimethyl-6-oxo-2-trimethylsilanylethynyl-1,6-dihydropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)C#C[Si](C)(C)C | C15H20ClNO3Si
